US04297516
4-Hydroxy-4-methyl-7-thia-1-octyne
To a stirred mixture of 6.6 g. (0.275 moles) of magnesium and 116 mg. of mercuric chloride in 35 ml. of ether is added, dropwise under argon atmosphere, 35.2 g. of propargyl bromide (80% solution in toluene) and 25 g. (0.21 moles) of methylmercaptobutane-3-one [D. B. Reisner, J. Am. Chem. Soc., 78, 2132 (1956) in 100 ml. of ether at a rate to maintain gentle refluxing. After stirring at the reflux temperature for 35 minutes, the cooled mixture is quenched by dropwise addition of 140 ml. of saturated ammonium chloride solution. The ether phase is separated, washed with saturated sodium chloride solution, dried with anhydrous magnesium sulfate and taken to dryness. Distillation of the residual oil provides 27.4 g. (82%) of product as a colorless oil; b.p 114°-115° C. (7-8 mm.).

reactant | magnesium | 0.275 moles | [Mg] | Mg
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | methylmercaptobutane-3-one | 0.21 moles | CSCCC(C)=O | C5H10OS
reactant | ether | CCOCC | C4H10O
product | 4-Hydroxy-4-methyl-7-thia-1-octyne | OC(CC#C)(CCSC)C | C8H14OS
